US05990161
Methyl 2-(2-benzyloxyiminomethyloxymethylphenyl)-2-methoxyiminoacetate) (compound No. 2) (200 mg. 0.6 mmol) was dissolved into 8 ml of methanol, an aqueous solution of 40% methylamine (230 mg, 2.9 mmol) was added thereto. After stirring for 1 day, water was added to the reaction solution, methanol was removed by evaporation, and there was extracted with ethyl acetate. The organic layer was rinsed with water and dried. After removing the solvent by evaporation, the residue was purified with silica gel chromatography to obtain 0.18 g of N-methyl 2-(2-benzyloxyiminomethyloxymethylphenyl)-2-methoxyiminoacetamide (Compound No. 3; yield: 90%). The proton NMR spectrum of the compound is 2.81 s (3H); 3.89 s (3H); 4.91 s (2H); 5.00 s (2H); 6.52 s (1H): 6.82 bd(1H); 7.15-7.21 m (1H); 7.23-7.47 m (8H) (solvent: CDCl3).

reactant | Methyl 2-(2-benzyloxyiminomethyloxymethylphenyl)-2-methoxyiminoacetate | C(C1=CC=CC=C1)ON=COCC1=C(C=CC=C1)C(C(=O)OC)=NOC | C19H20N2O5
reactant | methylamine | 2.9 mmol, 230 mg | CN | CH5N
reactant | water | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 8 ml | CO | CH4O
product | N-methyl 2-(2-benzyloxyiminomethyloxymethylphenyl)-2-methoxyiminoacetamide | 0.18 g, yield: 90% | CNC(C(=NOC)C1=C(C=CC=C1)COC=NOCC1=CC=CC=C1)=O | C19H21N3O4
